US05998436
Synthesis of 4-amino-3-chloro-2,5,6-trifluoropyridine
To 100 ml of acetonitrile was dissolved 20.5 g of 3-chloro-2,4,5,6-tetrafluoropyridine, and 30 ml of 25% aqueous solution of ammonia was added in three portions while the mixture was stirred and cooled with water, and the stirring was continued for another 30 minutes. The solution was concentrated under reduced pressure. After adding 200 ml of chloroform to the solid residue, the solution was washed with 50 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the precipitate was collected by filtration to obtain 16.6 g of the title compound as colorless flake crystals.

reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | 3-chloro-2,4,5,6-tetrafluoropyridine | 20.5 g | ClC=1C(=NC(=C(C1F)F)F)F | C5ClF4N
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 4-amino-3-chloro-2,5,6-trifluoropyridine | 16.6 g | NC1=C(C(=NC(=C1F)F)F)Cl | C5H2ClF3N2
